US06384057B1
A mixture of 3-hydroxyacetophenone on Wang resin (6.0 g, 5.52 mmol) was swelled in trimethyl orthoformate (60 mL) for 10 min. 25% NaOMe in MeOH (2.4 g, 11.0 mmol) was added and the mixture was stirred for 40 min. Cyclohexanecarboxaldehyde (1.9 g, 16.56 mmol) was added and stirring was continued for 40 min. The resin was filtered and washed with alternating MeOH and CH2Cl2 (×5) and dried under high vacuum overnight to give 6.62 g of 3-cyclohexyl-1-(3-hydroxyphenyl)-2-propen-1-one on Wang resin.

reactant | 3-hydroxyacetophenone | CC(=O)C=1C=CC=C(C1)O | C8H8O2
reactant | NaOMe | C[O-].[Na+]
reactant | MeOH | 11.0 mmol, 2.4 g | CO | CH4O
reactant | Cyclohexanecarboxaldehyde | 16.56 mmol, 1.9 g | C1(CCCCC1)C=O | C7H12O
solvent | trimethyl orthoformate | 60 mL | C(OC)(OC)OC | C4H10O3
product | 3-cyclohexyl-1-(3-hydroxyphenyl)-2-propen-1-one | 6.62 g | C1(CCCCC1)C=CC(=O)C1=CC(=CC=C1)O | C15H18O2
